US08455477B2
Diethyl [(E)-(pyridin-3-ylimino)methyl]malonate (9 g, 34 mmol) was dissolved in 1,1′-oxydibenzene (150 ml). The mixture was heated at 250° C. for 2 hours, and then cooled to room temperature. The reaction mixture was filtered to give ethyl 4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylate.

reactant | Diethyl [(E)-(pyridin-3-ylimino)methyl]malonate | 34 mmol, 9 g | N1=CC(=CC=C1)\N=C\C(C(=O)OCC)C(=O)OCC | C13H16N2O4
solvent | 1,1′-oxydibenzene | 150 ml | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
product | ethyl 4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylate | OC1C(C=NC2=CC=CN=C12)C(=O)OCC | C11H12N2O3
